US05354759
To a stirred solution of 3-[4-(2-bromo-4-cyano-1-methyl-2-pyrrolyl)benzyl]-2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine (1.30 g) in xylene (15 ml) was added trimethyltin azide (1.72 g) at 125° C., stirred at the same temperature for 36 hours under nitrogen atmosphere, and the mixture was evaporated in vacuo. The residue was diluted with methanol and conc. hydrochloric acid (1 ml) was added therein. The mixture was stirred for 1 hour at ambient temperature. The mixture was concentrated in vacuo. The residue was diluted with methanol and adjusted to pH4 with aqueous 1N sodium hydroxide. The organic layer was separated, and evaporated in vacuo. The residue was purified by flash column chromatography on silica gel (elution by dichloromethane/methanol=15/1) and by preparative thin layer chromatography (elution by dichloromethane/methanol=8/1) to yield 3-[4-[2-bromo-1-methyl-4-(1H-tetrazol-5yl)-2-pyrrolyl]benzyl-2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine (691 mg) as a colorless amorphous solid.

reactant | 3-[4-(2-bromo-4-cyano-1-methyl-2-pyrrolyl)benzyl]-2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine | 1.30 g | BrC1(N(C=C(C1)C#N)C)C1=CC=C(CN2C(=NC=3C2=NC=CC3C)SCC)C=C1 | C22H22BrN5S
reactant | trimethyltin azide | 1.72 g | C[Sn](C)(C)N=[N+]=[N-]
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-[2-bromo-1-methyl-4-(1H-tetrazol-5yl)-2-pyrrolyl]benzyl-2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine | 691 mg | BrC1(N(C=C(C1)C1=NN=NN1)C)C1=CC=C(CN2C(=NC=3C2=NC=CC3C)SCC)C=C1 | C22H23BrN8S
